US08349851B2
To a solution of ethyl 4-chloroquinazoline-2-carboxylate (0.6 g, 2.53 mmol) in THF (6 mL) at −40° C., was added dropwise a 1 M solution of 4-fluorophenylmagnesium bromide in THF (3 mL, 3.0 mmol, 1.2 eq). The mixture was stirred at −40 C for 4 h. The reaction was quenched by adding 0.5 N HCl solution (5 mL) and the mixture was extracted with EtOAc (2×10 mL). The combined organic layers were washed with brine and dried over MgSO4. The crude product was purified on a silica gel column using a mixture of EtOAc-hexanes as eluent. (4-chloroquinazoline-2-yl)(4-fluorophenyl)methanone was obtained as a light yellow solid (440 mg, 60%). 1H NMR (300 MHz, DMSO-d6) δ 7.45-740 (m, 2H), 8.07-8.03 (m, 1H), 8.17-8.13 (m, 2H), 8.23 (m, 2H), 8.42 (d, 1H); LC-MS (ESI) m/z 287 (M+H)+.

reactant | ethyl 4-chloroquinazoline-2-carboxylate | 2.53 mmol, 0.6 g | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3.0 mmol, 3 mL, 1.2 eq | C1CCOC1 | C4H8O
product | (4-chloroquinazoline-2-yl)(4-fluorophenyl)methanone | ClC1=NC(=NC2=CC=CC=C12)C(=O)C1=CC=C(C=C1)F | C15H8ClFN2O
